US08211901B2
Preparation of N-(2-aminophenyl)-6-(8-trifluoromethylquinolin-4-yloxy)-1-naphthamide
The title compound (38.3 mg, 81% yield) was prepared as a brown solid from 6-(8-trifluoromethylquinolin-4-yloxy)-1-naphthoic acid (39.8 mg, 0.1 mmol) and o-phenylenediamine (43.2 mg, 0.4 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 4.98 (s, 2H, benzene-NH2), 6.65 (t, J=7.3 Hz, 1H, Ar—H), 6.83 (d, J=7.6 Hz, 1H, Ar—H), 6.89 (d, J=5.2 Hz, 1H, Ar—H), 7.00 (t, J=7.2 Hz, 1H, Ar—H), 7.38 (d, J=7.5 Hz, 1H, Ar—H), 7.62 (dd, J=2.4 and 9.2 Hz, 1H, Ar—H), 7.68 (t, J=7.7 Hz, 1H, Ar—H), 7.83 (t, J=7.9 Hz, 1H, Ar—H), 7.90 (d, J=7.0 Hz, 1H, Ar—H), 7.97 (d, J=2.3 Hz, 1H, Ar—H), 8.10 (d, J=8.3 Hz, 1H, Ar—H), 8.29 (d, J=7.1 Hz, 1H, Ar—H), 8.47 (d, J=9.2 Hz, 1H, Ar—H), 8.70 (d, J=7.8 Hz, 1H, Ar—H), 8.87 (d, J=5.2 Hz, 1H, Ar—H), 9.86 (s, 1H, benzene-NH). LC-MS (m/z) 474 (M+1).

reactant | 6-(8-trifluoromethylquinolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 39.8 mg | FC(C=1C=CC=C2C(=CC=NC12)OC=1C=C2C=CC=C(C2=CC1)C(=O)O)(F)F | C21H12F3NO3
reactant | o-phenylenediamine | 0.4 mmol, 43.2 mg | C1(=C(C=CC=C1)N)N | C6H8N2
product | N-(2-aminophenyl)-6-(8-trifluoromethylquinolin-4-yloxy)-1-naphthamide | 38.3 mg, 81% yield | NC1=C(C=CC=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C27H18F3N3O2
